US08703797B2
4-Isopropylquinolin-2-ol:
A solution of 4-methyl-3-oxo-N-phenylpentanamide (3.70 g, 18.03 mmol) in 15 mL H2SO4 was reacted as outlined in Scheme 2 above to give 1.95 g (57%) of the desired title compound. Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ ppm 1.36 (d, J=6.74 Hz, 6 H) 3.45 (quin, J=6.81 Hz, 1 H) 6.67 (s, 1 H) 7.15-7.32 (m, 1 H) 7.40-7.61 (m, 2 H) 7.79 (d, J=8.50 Hz, 1 H) 12.28 (br. s., 1 H).

reactant | 4-methyl-3-oxo-N-phenylpentanamide | 18.03 mmol, 3.70 g | CC(C(CC(=O)NC1=CC=CC=C1)=O)C | C12H15NO2
solvent | H2SO4 | 15 mL | OS(=O)(=O)O | H2O4S
product | 4-Isopropylquinolin-2-ol | 1.95 g, 57% | C(C)(C)C1=CC(=NC2=CC=CC=C12)O | C12H13NO
